US07253296B2
Preparation of 1-(tert-butyloxycarbonylamino)propane-2,3-diol (example 17a)
1-aminopropane-2,3-diol (5 g, 55 mmol) was dissolved in methanol (200 ml) followed by dropwise addition of triethylamine (0.5 ml per mmol of amine) and di-tert-butyl dicarbonate [(BOC)2O] wherein BOC corresponds to tertbutyloxycarbonyl (17.97 g, 82 mmol). The reaction medium was heated at 40-50° C. for 20 min then stirred at room temperature for 1 hour. After evaporation of the solvent, the colorless oily residue was purified by chromatography on silica gel (eluent: dichloromethane/methanol 95:5) to give the desired compound in the form of a colorless oil which crystallized slowly.

reactant | 1-aminopropane-2,3-diol | 55 mmol, 5 g | NCC(CO)O | C3H9NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 200 ml | CO | CH4O
product | 1-(tert-butyloxycarbonylamino)propane-2,3-diol | Yield: 99% | C(C)(C)(C)OC(=O)NCC(CO)O | C8H17NO4
